US07498346B2
N-((R)-3-{4-[(4-Methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-3,5-dimethyl-terephthalamic acid (0.050 g, 0.09 mmol), EDCI (0.019 g, 0.10 mmol) and HOBT (0.013 g, 0.10 mmol) were combined in DMF (5 mL) to give a pale yellow solution. To this solution was added isopropylamine (8 μL, 0.10 mmol) followed by DIPEA (19 μL, 0.11 mmol) and the resulting mixture was stirred at 25° C. for 16 h. Standard workup according to General Procedure C gave the crude product as a tan oil. Purification by column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 93:5:2, v/v/v) afforded N′-isopropyl-N-((R)-3-{4-[(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-2,6-dimethyl-terephthalamide (0.046 g, 86%) as a white foam. 1H NMR (CDCl3) δ 0.97 (d+m, 4H), 1.18 (d+m, 7H), 1.55 (m, 1H), 1.72 (m, 3H), 2.08 (br t, 1H), 2.26 (s, 6H), 2.30 (s, 3H), 2.42 (br t, 1H), 2.67-2.81 (m, 3H), 3.14 (m, 1H), 3.31 (m, 1H), 3.72 (s, 3H), 3.78 (m, 1H), 3.99 (s, 2H), 4.23 (m, 1H), 6.57 (d, 1H, J=6.0 Hz), 6.68 (d, 2H, J=9.0 Hz), 6.73 (d, 2H, J=9.0 Hz), 7.00 (d, 1H, J=3.0 Hz), 7.45 (s, 2H), 7.83 (s, 1H), 8.29 (s, 1H), 8.31 (d, 1H, J=6.0 Hz). 13C NMR (CDCl3) δ 13.7, 19.0, 19.6, 23.1, 29.7, 30.4, 31.3, 39.6, 42.2, 44.2, 47.7, 49.2, 51.9, 55.9, 59.6, 60.0, 114.8, 118.2, 121.4, 125.3, 126.5, 134.0, 134.8, 135.1, 141.2, 143.3, 145.2, 148.1, 149.4, 154.5, 166.5, 169.8. ES-MS m/z 600 (M+H). Anal. Calcd. for C36H49N5O3.0.1 CH2Cl2: C, 71.28; H, 8.15; N, 11.51. Found: C, 71.26; H, 8.18; N, 11.41.

reactant | N-((R)-3-{4-[(4-Methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-3,5-dimethyl-terephthalamic acid | 0.09 mmol, 0.050 g | COC1=CC=C(C=C1)N(C1CCN(CC1)[C@@H](CCNC(C1=C(C=C(C(=O)O)C=C1C)C)=O)C)CC=1C=NC=CC1C | C33H42N4O4
reactant | EDCI | 0.10 mmol, 0.019 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.10 mmol, 0.013 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | isopropylamine | 0.10 mmol, 8 μL | C(C)(C)N | C3H9N
reactant | DIPEA | 0.11 mmol, 19 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N′-isopropyl-N-((R)-3-{4-[(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-2,6-dimethyl-terephthalamide | 0.046 g, 86% | C(C)(C)NC(C1=CC(=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(CC=2C=NC=CC2C)C2=CC=C(C=C2)OC)C(=C1)C)C)=O | C36H49N5O3
